US07396847B2
N-[((5S)-3-{4′-[(5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide
The procedure of Example 41, but starting from N-({(5S)-2-oxo-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide (476 mg, 1.20 mM) and (5R)-3-(4-bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole (370 mg. 1.00 mM) was used to give the desired product after 7 hours at 90° C. Purification by chromatography on silica gel using 90% ethyl acetate/hexanes gave 398 mg of the title product.

reactant | N-({(5S)-2-oxo-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide | 1.20 mM, 476 mg | O=C1O[C@H](CN1C1=CC=C(C=C1)[Sn](C)(C)C)CNC(C)=O
reactant | (5R)-3-(4-bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole | 1.00 mM, 370 mg | BrC1=CC=C(C=C1)C1=NO[C@H](C1)CO[Si](C)(C)C(C)(C)C | C16H24BrNO2Si
product | N-[((5S)-3-{4′-[(5R)-5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazol-3-yl]-1,1′-biphenyl-4-yl}-2-oxo-1,3-oxazolidin-5-yl)methyl]acetamide | [Si](C)(C)(C(C)(C)C)OC[C@H]1CC(=NO1)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C28H37N3O5Si
